US04683222
N-Dodecyl-N-(2-acetamido-2-deoxy-D-glucopyranosyl)-tetradecanamide
26 g of N-acetylglucosamine were dissolved in 100 ml of ethanol and 60 ml of water and heated to 60°. 37 g of dodecylamine were added and stirred until a clear solution was achieved. The glycosylamine crystallised out after cooling down to room temperature. The mass of crystals was filtered off with suction, washed with ethanol and then with ether and dried in vacuo. 3 g of the solid material were suspended in 50 ml of tetrahydrofuran, 3.3 g of sodium carbonate were added and 1.9 g of tetradecanoyl chloride in 10 ml of tetrahydrofuran were added. After completion of reaction, the mixture was diluted with 30 ml of dichloromethane, filtered and the filtrate was evaporated in vacuo. The syrup obtained was purified by chromatography (mobile phase dichloromethane/methanol 20/1, (v/v)).

reactant | N-acetylglucosamine | 26 g | C(C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C8H15NO6
reactant | water | 60 ml | O | H2O
reactant | dodecylamine | 37 g | C(CCCCCCCCCCC)N | C12H27N
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-Dodecyl-N-(2-acetamido-2-deoxy-D-glucopyranosyl)-tetradecanamide | C(CCCCCCCCCCC)N(C(CCCCCCCCCCCCC)=O)C1[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CO)NC(C)=O | C34H66N2O6
